US05030629
Preparation of 4,4-Dimethyl-2-pentyl-2-imidazoline
8.41 g (95.4 mmoles) of 1,2-diamino-2-methylpropane, 7.4 g (76.16 mmoles) of hexanenitrile and 0.4 ml of carbon disulfide were heated at 125° C. for 24 hours and then worked up as under Example 23. Distillation at 105°-107° C./0.5 mm gave 9.4 g (73.4%) of product.

reactant | 1,2-diamino-2-methylpropane | 95.4 mmoles, 8.41 g | NCC(C)(C)N | C4H12N2
reactant | hexanenitrile | 76.16 mmoles, 7.4 g | C(CCCCC)#N | C6H11N
solvent | carbon disulfide | 0.4 ml | C(=S)=S | CS2
product | 4,4-Dimethyl-2-pentyl-2-imidazoline | 9.4 g, 73.4% | CC1(N=C(NC1)CCCCC)C | C10H20N2
